US06100262
A mixture of 4-chloro-N,N-diethylbutanamide (2.16 g), 4-amino-5-chloro-2-methoxy-N-(2-morpholinylmethyl)benzenamide (3 g), prepared following the procedure as described in EP-A-0,243,959, and sodium carbonate (1.58 g) in N,N-dimethyl-formamide (90 ml) was stirred for 48 hours at 70° C. The solvent was evaporated and water was added to the residue. This mixture was extracted twice with dichloromethane and the combined extracts were washed with water, dried, filtered and the solvent evaporated. The residue was purified by column chromatography over silica gel (eluent: CHCl3 /CH3OH 95/5). The first fraction was collected and the solvent was evaporated. The residue was converted into the hydrochloric salt in 2-propanol and diisopropyl ether. The salt was filtered off and crystallized from acetonitrile. The precipitate was filtered off and dried, yielding 1.43 g (30.4%) of (±)-2-[[(4-amino-5-chloro-2-methoxybenzoyl)amino]methyl]-N,N-diethyl4-morpholine-butanamide monohydrochloride. hemihydrate (compound 1; mp. 122.2° C.).

reactant | 4-chloro-N,N-diethylbutanamide | 2.16 g | ClCCCC(=O)N(CC)CC | C8H16ClNO
reactant | 4-amino-5-chloro-2-methoxy-N-(2-morpholinylmethyl)benzenamide | 3 g | NC1=CC(=C(C=C1Cl)C(=O)NCC1CNCCO1)OC | C13H18ClN3O3
reactant | sodium carbonate | 1.58 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethyl-formamide | 90 ml | CN(C=O)C | C3H7NO
product | (±)-2-[[(4-amino-5-chloro-2-methoxybenzoyl)amino]methyl]-N,N-diethyl4-morpholine-butanamide monohydrochloride | 1.43 g, 30.4% | Cl.NC1=CC(=C(C(=O)NCC2CN(CCO2)CCCC(=O)N(CC)CC)C=C1Cl)OC | InChI=1S/C21H33ClN4O4.ClH/c1-4-26(5-2)20(27)7-6-8-25-9-10-30-15(14-25)13-24-21(28)16-11-17(22)18(23)12-19(16)29-3;/h11-12,15H,4-10,13-14,23H2,1-3H3,(H,24,28);1H
